US08076336B2
7,8-Dimethyl-6-propoxy-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine
1-Propanol (28 ml) was deprotonated analogously to W1.056 with sodium hydride (1.3 g) and reacted with 6-chloro-7,8-dimethyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine (W2.006a, 1 g), dissolved in 1-propanol (10 ml) and DMF (10 ml), and worked up. 647 mg of the title compound were isolated in sufficient purity.

reactant | sodium hydride | 1.3 g | [H-].[Na+]
reactant | 6-chloro-7,8-dimethyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine | 1 g | ClC=1C(=C(C=2N(N1)C(=NN2)N)C)C | C7H8ClN5
reactant | 1-propanol | 10 ml | C(CC)O | C3H8O
reactant | 1-Propanol | 28 ml | C(CC)O | C3H8O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 7,8-Dimethyl-6-propoxy-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine | 647 mg | CC1=C(C=2N(N=C1OCCC)C(=NN2)N)C | C10H15N5O
